US07662808B2
N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzenesulfonamide free base (Compound G6)
Was prepared by Method G from 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine and phenylsulfonyl chloride. Mp. 267° C.

reactant | 4-(1,4-diaza-bicyclo[3.2.2]non-4-yl)-phenylamine | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)N | C13H19N3
reactant | phenylsulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[4-(1,4-Diaza-bicyclo[3.2.2]non-4-yl)-phenyl]-benzenesulfonamide | N12CCN(C(CC1)CC2)C2=CC=C(C=C2)NS(=O)(=O)C2=CC=CC=C2 | C19H23N3O2S
